US03974243
200 g of p-ethoxycarbonylphenyl-methylphosphinic acid ethyl ester are refluxed with concentrated hydrochloride acid in excess. After the reaction is complete, the water and the hydrogen chloride are distilled off in a water jet pump vacuum. The residue is recrystallized from water. 135 g of p-carboxyphenyl-methylphosphinic acid having a melting point of 238°C to 240°C are obtained, corresponding to a yield of 87 90. ##SPC8##

reactant | p-ethoxycarbonylphenyl-methylphosphinic acid ethyl ester | 200 g | C(C)OP(=O)(C)C1=CC=C(C=C1)C(=O)OCC | C12H17O4P
reactant | hydrochloride | Cl | ClH
product | p-carboxyphenyl-methylphosphinic acid | 135 g | C(=O)(O)C1=CC=C(C=C1)P(O)(=O)C | C8H9O4P
